US08022076B2
A stirred mixture of (4-chloro-5-phenylthieno[2,3-d]pyrimidin-2-yl)acetic acid ethyl ester (0.36 g, 1.08 mmol), 2-aminomethylpyridine (0.12 ml, 1.19 mmol), triethylamine (0.17 ml, 1.19 mmol) and ethanol (8 ml) was heated under reflux for 4 hours. The solution was then cooled to ambient temperature, poured into water (100 ml) and extracted with dichloromethane (3×50 ml). The combined organic extracts were dried (MgSO4) and the solvent removed in vacuo to give the crude product. Purification by flash chromatography (silica) eluting with ethyl acetate and 40°-60° petroleum ether (1:2) gave {5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}acetic acid ethyl ester as a colourless gum (0.41 g).

reactant | (4-chloro-5-phenylthieno[2,3-d]pyrimidin-2-yl)acetic acid ethyl ester | 1.08 mmol, 0.36 g | C(C)OC(CC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)Cl)=O | C16H13ClN2O2S
reactant | 2-aminomethylpyridine | 1.19 mmol, 0.12 ml | NCC1=NC=CC=C1 | C6H8N2
reactant | triethylamine | 1.19 mmol, 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | 8 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | {5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}acetic acid ethyl ester | 0.41 g | C(C)OC(CC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2)=O | C22H20N4O2S
